US04282245
To 72 mg of 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]-thiepin-2-yl)-propionic acid were added 10 ml of a diazomethaneether solution and 1 ml of methanol, and the mixture was stirred at room temperature for 30 minutes. To this was added acetic acid, and the mixture was made alkaline with a saturated sodium hydrogen carbonate solution and then extracted with benzene. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed by distillation to obtain a yellow oil, which was chromatographed over 2 g of silica gel and eluted with chloroform, thereby obtaining 44 mg (yield: 57%) of methyl 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]thiepin-2-yl)-propionate as a yellow oil.

reactant | 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]-thiepin-2-yl)-propionic acid | 72 mg | [N+](=O)([O-])C=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C1 | C17H13NO5S
reactant | methanol | 1 ml | CO | CH4O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]thiepin-2-yl)-propionate | 44 mg, yield: 57% | [N+](=O)([O-])C=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)OC)C)=O)C1 | C18H15NO5S
